US07244726B2
2-Nitro-4-(piperidin-4-ylmethyl)phenol (D18)
Concentrated nitric acid in acetic acid (8 mL 70% HNO3 aq in 16 mL acetic acid) was added slowly to a stirred solution of 4-(piperidin-4-ylmethyl)phenol (Guzikowski et al, J. Med Chem., 2000, 43, 984–994) (100 mmol) in acetic acid (300 mL) and the resultant slurry stirred at 80° C. for 1 h. The reaction mixture was then filtered and evaporated in vacuo to give the title compound as a brown solid.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-(piperidin-4-ylmethyl)phenol | 100 mmol | N1CCC(CC1)CC1=CC=C(C=C1)O | C12H17NO
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2-Nitro-4-(piperidin-4-ylmethyl)phenol | [N+](=O)([O-])C1=C(C=CC(=C1)CC1CCNCC1)O | C12H16N2O3
